US07329658B2
Preparation of 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]-2-methylpyrazolo[1,5-a][1,3,5]triazine, Hydrochloride Salt (9A-1)
To a solution of (1S,4S)-5-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (8A-1; 200 mg, 0.36 mmol) in methylene chloride (3 ml) and methanol (3 ml) was added 1M HCl in diethyl ether (1.8 ml, 1.8 mmol). After stirring overnight, the reaction was concentrated, in vacuo, and then triturated from diethyl ether to afford 9A-1 (180 mg, 96%) as a solid: +ESI MS (M+1) 451.3; 1H NMR (400 MHz, CD3OD) δ 7.48-7.36 (m, 4H), 7.32 (d, J=8.7 Hz, 2H), 7.26 (d, J=8.7 Hz, 2H), 4.64 (s, 1H), 3.68 (d, J=10.8 Hz, 1H), 3.55 (dd, J=10.8, 1.6 Hz, 1H), 2.58 (s, 3H), 2.41 br d, J=11.2 Hz, 1H), 2.18 (d, J=11.2 Hz, 1H).

reactant | (1S,4S)-5-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.36 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=NC=1N2N=C(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C | C28H28Cl2N6O2
reactant | HCl | 1M | Cl | ClH
reactant | diethyl ether | 1.8 mmol, 1.8 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
product | 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]-2-methylpyrazolo[1,5-a][1,3,5]triazine, Hydrochloride Salt | Cl.ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2[C@@H]3CN[C@H](C2)C3)C)=C1C1=CC=C(C=C1)Cl | InChI=1S/C23H20Cl2N6.ClH/c1-13-27-22-20(14-6-8-15(24)9-7-14)21(18-4-2-3-5-19(18)25)29-31(22)23(28-13)30-12-16-10-17(30)11-26-16;/h2-9,16-17,26H,10-12H2,1H3;1H/t16-,17-;/m0./s1
